US05998442
[2-(3,4-Dimethoxyphenyl)-6-methoxybenzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]methanone
By the method described in Example 1, [2-dimethylamino-6-methoxybenzothien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]-methanone (1.64 g, 3.75 mmol) in THF (15 mL) was treated with a 0.63 M solution of 3,4-dimethoxyphenylmagnesium bromide (12.0 mL, 7.56 mmol) (prepared from 4-bromoveratrole, catalytic iodine, and magnesium turnings in THF). Purification by chromatography (silica gel, 5-10% MeOH in CH2Cl2) gave 1.32 g (66%) of the title compound as a yellow foam: 1H NMR d 1.45 (m, 2H), 1.61 (m, 4H), 2.48 (m, 4H), 2.75 (t, J=6.0 Hz, 2H), 3.74 (s, 3H), 3.84 (s, 3H), 3.90 (s, 3H), 4.09 (t, J=6.0 Hz, 2H), 6.76 (d, J=8.2 Hz, 1H), 6.77 (d, J=8.7 Hz, 2H), 6.91 (d, J=1.6 Hz, 1H), 6.98 (dd, J=2.2 Hz, 8.9 Hz, 1H), 7.04 (dd, J=1.6 Hz, 8.2 Hz, 1H), 7.33 (d, J=2.2 Hz, 1H), 7.57 (d, J=8.9 Hz, 1H), 7.79 (d, J=8.7 Hz, 2H); 13C NMR d 23.6, 25.3, 54.5, 55.1, 55.2, 55.3, 57.1, 65.6, 104.0, 110.6, 111.6, 113.7, 114.3, 121.0, 123.5, 125.7, 129.9, 130.1, 131.7, 133.4, 139.5, 141.8, 148.1, 148.7, 157.2, 162.5, 192.8; MS (FD) m/e 531 (M+); Anal. calc'd. for C31H33NO5S: C, 70.03; H, 6.26; N, 2.63. Found: C, 70.21; H, 6.36; N, 2.67.

reactant | [2-dimethylamino-6-methoxybenzothien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]-methanone | 3.75 mmol, 1.64 g | CN(C=1SC2=C(C1C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)C=CC(=C2)OC)C | C25H30N2O3S
reactant | 3,4-dimethoxyphenylmagnesium bromide | 7.56 mmol, 12.0 mL | COC=1C=C(C=CC1OC)[Mg]Br
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | [2-(3,4-Dimethoxyphenyl)-6-methoxybenzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]methanone | 1.32 g, 66% | COC=1C=C(C=CC1OC)C1=C(C2=C(S1)C=C(C=C2)OC)C(=O)C2=CC=C(C=C2)OCCN2CCCCC2 | C31H33NO5S
